US05286728
2 g of 1-(4-aminobenzoyl)-4-[2-(4-chlorophenyl)-ethyl]piperazine and 0.82 g of Hunig base are introduced into 40 ml of tetrahydrofuran, and a solution of 0.8 g of 3-chloropropionic acid chloride is added dropwise thereto. The solution is left to stand overnight. The resulting suspension is concentrated by evaporation and taken up in methylene chloride and water. There is obtained from the organic phase 1-[4-(3-chloropropionylamino)benzoyl]-4-[2-(4-chlorophenyl)-ethyl]piperazine having a melting point of 190°-191°.

reactant | 1-(4-aminobenzoyl)-4-[2-(4-chlorophenyl)-ethyl]piperazine | 2 g | NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C19H22ClN3O
reactant | Hunig base | 0.82 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-chloropropionic acid chloride | 0.8 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-[4-(3-chloropropionylamino)benzoyl]-4-[2-(4-chlorophenyl)-ethyl]piperazine | ClCCC(=O)NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C22H25Cl2N3O2
